US07285558B2
Preparation of N-[tert-butyl(dimethyl)silyl]-2-formyl-1-methyl-1H-imidazole-4-sulfonamide
Step A) Preparation of N-[tert-butyl(dimethyl)silyl]-1-methyl-1H-imidazole-4-sulfonamide: A mixture of 2.2 g (14 mmol) 1-methyl-1H-imidazole-4-sulfonamide, 2.1 g (14 mmol) t-butyldimethylsilyl chloride and 3.9 mL (28 mmol) triethylamine in 15 mL DMF was stirred at room temperature overnight Solvent was removed, and the residue was dissolved in EtOAc before being washed with water and brine. Drying (MgSO4) and removal of solvent gave 3 g of the subtitle product as a white solid, 1H NMR (DMSO) δ 7.7 (s, 1H), 7.6 (s, 1H), 7.35 (s, 1H), 3.7 (s, 3H), 0.9 (s, 9H)., 0.2 (s, 6H).

reactant | N-[tert-butyl(dimethyl)silyl]-1-methyl-1H-imidazole-4-sulfonamide | [Si](C)(C)(C(C)(C)C)NS(=O)(=O)C=1N=CN(C1)C | C10H21N3O2SSi
reactant | 1-methyl-1H-imidazole-4-sulfonamide | 14 mmol, 2.2 g | CN1C=NC(=C1)S(=O)(=O)N | C4H7N3O2S
reactant | t-butyldimethylsilyl chloride | 14 mmol, 2.1 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | triethylamine | 28 mmol, 3.9 mL | C(C)N(CC)CC | C6H15N
reactant | DMF | 15 mL | CN(C)C=O | C3H7NO
product | N-[tert-butyl(dimethyl)silyl]-2-formyl-1-methyl-1H-imidazole-4-sulfonamide | 3 g | [Si](C)(C)(C(C)(C)C)NS(=O)(=O)C=1N=C(N(C1)C)C=O | C11H21N3O3SSi
